US05240935
A mixture of ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]-oct-7-ene-6-carboxylate hydrochloride (17.4 g, 49.7 mol), 10% palladium on carbon (1.7 g) and ethanol (200 mL) was hydrogenated on a Parr hydrogenator at 50 psi for 6 hours. The mixture was removed from the Parr hydrogenator, cooled to 0° C. and triethylamine (7.0 mL, 50 mmol), followed by 37% formaldehyde (4.1 mL, 55 mmol) were added. The mixture was then placed back on the Parr hydrogenator at 50 psi for 1 hour. The reaction mixture was removed from the Parr hydrogenator, the catalyst was removed by filtration and the solvent was removed in vacuo. The residue was dissolved in water, basified with concentrated ammonium hydroxide (20 mL) and extracted with ether (3×300 mL). The combined organic layers were washed with brine (50 mL), dried over potassium carbonate and concentrated in vacuo to afford 11.5 g (96%) of ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2,2,2]-octane-6-carboxylate as a pale yellow oil.

reactant | ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]-oct-7-ene-6-carboxylate hydrochloride | 49.7 mol, 17.4 g | Cl.CC1N(C2C(CC1(C(=C2)C)C)C(=O)OCC)CC2=CC=CC=C2
reactant | triethylamine | 50 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | 55 mmol, 4.1 mL | C=O | CH2O
catalyst | palladium on carbon | 1.7 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2,2,2]-octane-6-carboxylate | 11.5 g, 96% | CN1C2C(CC(C1C)(C(C2)C)C)C(=O)OCC | C14H25NO2
